US09290451B2
c) 2-Amino-2-ethyl-N,N-dimethylbutanamide hydrogen chloride
tert-Butyl 3-(dimethylcarbamoyl)pentan-3-ylcarbamate (0.12 g, 0.47 mmol) was added to a saturated solution of hydrochloride in ethyl acetate (5 mL) and the mixture was stirred overnight. The solvent was removed by reduced pressure to give the crude product (0.1 g); MS (EI): m/e=159.2 [M+H]+.

reactant | tert-Butyl 3-(dimethylcarbamoyl)pentan-3-ylcarbamate | 0.47 mmol, 0.12 g | CN(C(=O)C(CC)(CC)NC(OC(C)(C)C)=O)C | C13H26N2O3
reactant | hydrochloride | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 2-Amino-2-ethyl-N,N-dimethylbutanamide hydrogen chloride | 0.1 g | Cl.NC(C(=O)N(C)C)(CC)CC | InChI=1S/C8H18N2O.ClH/c1-5-8(9,6-2)7(11)10(3)4;/h5-6,9H2,1-4H3;1H
